US05891902
1-{3-[Bis(4-methoxyphenyl)methyl]indol-2-ylcarbonyl}-4-(2-chlorophenyl)piperazine (Compound 29)
Substantially the same procedure as in Example 1 was repeated using 4,4'-dimethoxybenzhydrol (2.37 g, 9.71 mmol) and 1-(2-chlorophenyl)-4-(indol-2-ylcarbonyl)piperazine (3.0 g, 8.83 mmol) to give 4.0 g (yield: 81%) of the title compound.

reactant | 4,4'-dimethoxybenzhydrol | 9.71 mmol, 2.37 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)O)C=C1 | C15H16O3
reactant | 1-(2-chlorophenyl)-4-(indol-2-ylcarbonyl)piperazine | 8.83 mmol, 3.0 g | ClC1=C(C=CC=C1)N1CCN(CC1)C(=O)C=1NC2=CC=CC=C2C1 | C19H18ClN3O
product | 1-{3-[Bis(4-methoxyphenyl)methyl]indol-2-ylcarbonyl}-4-(2-chlorophenyl)piperazine | 4.0 g, yield: 81% | COC1=CC=C(C=C1)C(C1=C(NC2=CC=CC=C12)C(=O)N1CCN(CC1)C1=C(C=CC=C1)Cl)C1=CC=C(C=C1)OC | C34H32ClN3O3
